data/oMe_Silver.jsonl
{"reaction_id": "NR-328_1-CC#C_2-CC","level": "medium","name": "Zincke Reaction","reactants_smiles": ["c1cccc[n+]1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","N(CC#C)CC"],"products_smiles": ["N(CC#C)(CC)C=CC=CC=O"],"conditions": "Polar solvent (e.g., water, ethanol)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "CC#CN(CC)C1C=CC=CN1(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The amine nucleophile attacks the electron-deficient pyridinium ring, activated by nitro groups, enabling ring opening due to resonance-stabilized cationic intermediates in polar solvent."},{"step": 2,"type": "pericyclic","subtype": "electrocyclization","intermediate_smiles": "CC#CN(CC)C=CC=CC=N(c1cc(cc(c1)[N+]([O-])=O)[N+]([O-])=O)","step_weight": 0,"rationale": "The opened chain undergoes electrocyclization driven by conjugation and relief of charge separation, forming a more stable extended π-system."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "CC#CN(CC)C=CC=CC=O","step_weight": 0,"rationale": "Nucleophilic substitution occurs as the leaving group departs, favored by the stability of the conjugated enaminone product and good leaving ability of the nitro-activated fragment."}],"description": "In the Zincke reaction, a nucleophilic amine opens an activated pyridinium ring substituted with strong electron-withdrawing nitro groups. The ring undergoes electrocyclic rearrangement, followed by substitution to yield a conjugated enaminone. Polar solvents stabilize charged intermediates, facilitating the transformation."}
{"reaction_id": "NR-330_1-c1ccc(OC)cc1_2-C(=O)OC_3-C(F)(F)F_4-C(=O)OCC_5-C1CCCCC1_6-c1cccs1_7-C_8-c1ccc(N(C)C)cc1","level": "medium","name": "Rauhut-Currier Reaction","reactants_smiles": ["c1ccc(OC)cc1C(=O)C=C(C(=O)OC)C(F)(F)F","CC(=O)C(c1cccs1)=C(C1CCCCC1)C(=O)OCC","P(c1ccc(N(C)C)cc1)(c1ccc(N(C)C)cc1)c1ccc(N(C)C)cc1"],"products_smiles": ["c1ccc(OC)cc1C(=O)C(=C(C(=O)OC)C(F)(F)F)C(C(=O)OCC)(C1CCCCC1)C(c1cccs1)C(=O)C"],"conditions": "Nucleophilic Catalyst (e.g., P(n-Bu)3)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(OC)cc1C([O-])=CC(C(=O)OC)(C(F)(F)F)[P+](c1ccc(N(C)C)cc1)(c1ccc(N(C)C)cc1)c1ccc(N(C)C)cc1","step_weight": 0,"rationale": "The phosphine's lone pair attacks the β-position of the electron-deficient alkene, favored by conjugation with the carbonyl, forming a zwitterionic intermediate stabilized by resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccc(OC)cc1C(=O)C(C(C(=O)OC)(C(F)(F)F)([P+](c1ccc(N(C)C)cc1)(c1ccc(N(C)C)cc1)c1ccc(N(C)C)cc1))C(C(=O)OCC)(C1CCCCC1)C(c1cccs1)=C([O-])C","step_weight": 0,"rationale": "The nucleophilic carbon in the phosphonium enolate intermediate attacks the β-position of the second activated alkene, driven by its strong electron-withdrawing carbonyl group."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccc(OC)cc1C([O-])=C(C(C(=O)OC)(C(F)(F)F)([P+](c1ccc(N(C)C)cc1)(c1ccc(N(C)C)cc1)c1ccc(N(C)C)cc1))C(C(=O)OCC)(C1CCCCC1)C(c1cccs1)C(=O)C","step_weight": 0,"rationale": "Proton transfer occurs to stabilize the alkoxide and generate a neutral intermediate, facilitated by the basicity of the alkoxide and the acidity of nearby protons."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc(OC)cc1C(=O)C(=C(C(=O)OC)C(F)(F)F)C(C(=O)OCC)(C1CCCCC1)C(c1cccs1)C(=O)C","step_weight": 0,"rationale": "Elimination of the phosphine regenerates the catalyst, driven by formation of a conjugated enone system, which is thermodynamically favored due to extended π-delocalization."}],"description": "A nucleophilic phosphine catalyst activates an electron-deficient alkene toward conjugate addition, enabling C–C bond formation between two Michael acceptors. Subsequent proton transfer and elimination regenerate the catalyst, yielding the conjugated enone product under mild conditions with high atom economy."}
